US04812462
A solution of 8 g methanesulfonic anhydride in 45 mL dichloromethane is chilled to -50° C. and treated dropwise with a solution of 6.2 mL 2-methoxybenzyl alcohol, 8.0 mL diisopropylethylamine and 45 mL dichloromethane. The resulting solution is warmed to 0° C. over 30 min and treated dropwise with 15.0 g N,1-bis-BOC-histidine methyl ester dissolved in 45 mL dichloromethane. The mixture is then heated at reflux 24 hr, poured into 400 mL 0.25M, pH=7 potassium phosphate buffer and the organic layer is separated, dried and evaporated. Chromatography on silica gel, eluting with chloroform-methanol (99:1) gives 3-(2-methoxyphenyl)methyl-N-BOC-histidine methyl ester as a gum. NMR (CDCl3) 4.96 (s,2H,NCH2Ar).

reactant | methanesulfonic anhydride | 8 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | 2-methoxybenzyl alcohol | 6.2 mL | COC1=C(CO)C=CC=C1 | C8H10O2
reactant | diisopropylethylamine | 8.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N,1-bis-BOC-histidine methyl ester | 15.0 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CN(C=N1)C(=O)OC(C)(C)C)=O | C17H27N3O6
reactant | potassium phosphate | 0.25M, 400 mL, pH=7 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
product | 3-(2-methoxyphenyl)methyl-N-BOC-histidine methyl ester | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CN=CN1CC1=C(C=CC=C1)OC)=O | C20H27N3O5
